US05935966
The title compound was prepared by (a) of diethyl ethoxymethylenemalonate (6.3 g, 29 mmol) with 4-trifluoromethylphenylbenzamidine (5.5 g, 29 mmol) to afford 50% of ethyl 4-hydroxy-2-(4'-trifluoromethylphenyl)pyrimidine-5-carboxylate in analogy to Example 15, (b) reaction of ethyl 4-hydroxy-2-(4'-trifluoromethylphenyl)pyrimidine-5-carboxylate (3 g, 9.6 mmol) with POCl3 (49 g, 322 mmol) to afford 97% of ethyl 4-chloro-2-(4'-trifluoromethylphenyl)pyrimidine-5-carboxylate in analogy to Example 7, (c) reaction of ethyl 4-chloro-2-(4'-trifluoromethylphenyl)pyrimidine-5-carboxylate (2 g, 6 mmol) with hydrazine (0.6 g, 18 mmol) to afford 60% of ethyl 4-hydrazino-2-(4'trifluoromethylphenyl)pyrimidine-5-carboxylate in analogy to Example 18, (d) reaction of ethyl 4-hydrazino-2-(4'-trifluoromethylphenyl)pyrimidine-5-carboxylate (1 g, 3 mmol) with citraconic anhydride (1 g, 9 mmol) to afford 40% (0.5 g) of the title compound (m.p. 148-150° C.) in analogy to Example 21.

reactant | ethyl 4-hydroxy-2-(4'-trifluoromethylphenyl)pyrimidine-5-carboxylate | 9.6 mmol, 3 g | OC1=NC(=NC=C1C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C14H11F3N2O3
reactant | POCl3 | 322 mmol, 49 g | O=P(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-2-(4'-trifluoromethylphenyl)pyrimidine-5-carboxylate | 97% | ClC1=NC(=NC=C1C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C14H10ClF3N2O2
